US07592453B2
[4-(Benzoylamino)tetrahydro-2H-pyran-4-yl]acetic acid
To a mixture of ethyl (4-hydroxytetrahydro-2H-pyran-4-yl)acetate (6.73 g, 35.8 mmol) and benzonitrile (4.05 ml, 39.3 mmol) was added conc. sulfuric acid (25 ml) under ice-cooling. After stirring at room temperature for 16 hrs., the reaction mixture was added to water (100 ml) under ice-cooling, and the mixture was extracted with ethyl acetate. The extract washed with saturated aqueous sodium hydrogen carbonate solution, then with saturated brine and dried over anhydrous MgSO4. After concentration under reduced pressure, ethanol (50 ml) and 50% aqueous potassium hydroxide solution (10 ml) was added to the obtained residue, and the mixture was heated under reflux for 6 hrs. Water (200 ml) was added to the reaction mixture and the mixture was washed with diethyl ether. The aqueous layer was acidified (pH 2) with 5N hydrochloric acid, extracted with ethyl acetate-tetrahydrofuran (2:1, v/v). The extract was washed with saturated brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure. The obtained solid was collected by filtration and washed with diisopropy ether to give the title compound (1.64 g, 17%) as colorless crystals.

reactant | ethyl (4-hydroxytetrahydro-2H-pyran-4-yl)acetate | 35.8 mmol, 6.73 g | OC1(CCOCC1)CC(=O)OCC | C9H16O4
reactant | benzonitrile | 39.3 mmol, 4.05 ml | C(C1=CC=CC=C1)#N | C7H5N
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
product | [4-(Benzoylamino)tetrahydro-2H-pyran-4-yl]acetic acid | 1.64 g, 17% | C(C1=CC=CC=C1)(=O)NC1(CCOCC1)CC(=O)O | C14H17NO4
